US06638934B2
To a solution of 9-chloro-3-carbobenzyloxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a ]-quinoxalin-5(6H)-one (1.45 g, 3.9 mmol) in 50 ml THF was added a solution of borane-THF complex (1M in THF, 12.2 ml, 12.2 mmol). After 15 min, the reaction was heated to reflux. After MS showed the absence of starting material, the reaction mixture was cooled to rt. Methanol was added and the solution concentrated to a yellow residue. This was repeated and the crude material was purified by column chromatography using a Biotage© Flash 40i (4.0×15.0 cm column, load with methylene chloride, elute with 25-30% ethyl acetate/hexanes) to give 9-Chloro-3-carbobenzyloxy-2,3,4,4a,5,6-hexahydro-1H-pyrazino[1,2-a]quinoxaline as an off-white solid (898.3 mg, 65%). 1H NMR (CDCl3, 300 MHz) δ7.32-7.38 (m, 5H), 6.56-6.66 (m, 2H), 6.37-6.40 (m, 1H), 5.16 (s, 2H), 4.19 (m, 2H), 3.61-3.71 (m, 2H), 3.33-3.36 (m, 1H), 3.05-3.23 (m, 2H), 2.72-2.79 (m, 2H) ppm. MS (ESI) m/z=358 [M+H]+.

reactant | 9-chloro-3-carbobenzyloxy-2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a ]-quinoxalin-5(6H)-one | 3.9 mmol, 1.45 g | ClC1=CC=C2NC(C3N(C2=C1)CCN(C3)C(=O)OCC3=CC=CC=C3)=O | C19H18ClN3O3
reactant | borane THF | 12.2 mmol, 1M, 12.2 ml | B.C1CCOC1
reactant | Methanol | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 9-Chloro-3-carbobenzyloxy-2,3,4,4a,5,6-hexahydro-1H-pyrazino[1,2-a]quinoxaline | 898.3 mg, 65% | ClC1=CC=C2NCC3N(C2=C1)CCN(C3)C(=O)OCC3=CC=CC=C3 | C19H20ClN3O2
